US03972907
The instant compounds having the 5, 8, 11 and 14 double bonds are prepared preferably by alkylating the appropriate alkyl ester of arachidonic acid with an alkyl iodide in the presence of a base, such as a secondary amine, and n-alkyl lithium, i.e. n-butyl lithium. Typically, ethyl arachidonate is added to n-isopropylcyclohexylamine containing n-butyl lithium at a low temperature, e.g. -78°C., and then methyl iodide is added to yield ethyl 2-methylarachidonate. That same procedure then is repeated with ethyl 2-methylarachidonate in place of ethyl arachidonate to yield ethyl 2,2-dimethylarachidonate. The ester moiety can be cleaved with lithium iodide in an aromatic amine, e.g. collidine, to yield the corresponding acid. For example, methyl 2,2-dimethylarachidonate, when treated with lithium iodide in collidine, affords 2,2-dimethyl arachidonic acid.

reactant | arachidonic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl arachidonate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)OCC | C22H36O2
reactant | methyl iodide | CI | CH3I
product | ethyl 2-methylarachidonate | CC(C(=O)OCC)CC\C=C/C\C=C/C\C=C/C\C=C/CCCCC | C23H38O2
